### PR TITLE
Pushout draft

### PR DESCRIPTION
**Pull request by IanRay11**
Pushouts are pustulated via a record type. We explore deriving universal properties from induction and computation rules.

### CODE REVIEW

**Comment by IanRay11** [comment]
@martinescardo I finished a first draft of my pushout experiment. It is currently in the form where I postulate induction + computation rules and derive the UP. But I will eventually swithc this as we discussed.

**Comment by IanRay11** [comment]
@martinescardo Got it! Also should I change the name of cocone? To specify that it is a cocone of a pushout diagram? Or a cocone of a cospan? Or something along these lines.

**Comment by IanRay11** [comment]
@martinescardo I believe this file is now in a state that is ready for review. I think this file can be greatly improved in a few ways that I am going to continue to explore and outline for any interested party. But I think it is best to focus on the work I currently have in the meantime.
P.S. I am going to go over comments for typos right now.

File: source/UF/CoconesofSpans.lagda [hunk 1]
```diff
@@ -0,0 +1,503 @@
...
+open import UF.Equiv
+open import UF.EquivalenceExamples
+open import UF.PropIndexedPiSigma
+open import UF.Retracts
+open import UF.Subsingletons
+open import UF.Yoneda
+
+\end{code}
+
+We start by defining cocones and characerizing their identity type.
```
Comment (martinescardo) [inline source/UF/CoconesofSpans.lagda]: Typo: "characerizing".

File: source/UF/CoconesofSpans.lagda [hunk 2]
```diff
@@ -0,0 +1,503 @@
...
+cocone-family-is-identity-system
+ : {A : 𝓤  ̇} {B : 𝓥  ̇} {C : 𝓦  ̇}
+   (f : C → A) (g : C → B) (X : 𝓣  ̇)
+ → (x : cocone f g X)
+ → is-contr (Σ y ꞉ cocone f g X , cocone-family f g X x y)
+cocone-family-is-identity-system {𝓤} {𝓥} {𝓦} {𝓣} {A} {B} {C} f g X (i , j , H) =
+ equiv-to-singleton e 𝟙-is-singleton
+ where
+  e : (Σ y ꞉ cocone f g X , cocone-family f g X (i , j , H) y) ≃ 𝟙 {𝓤 ⊔ 𝓣}
+  e = (Σ y ꞉ cocone f g X , cocone-family f g X (i , j , H) y) ≃⟨ I ⟩
```
Comment (martinescardo) [inline source/UF/CoconesofSpans.lagda]: The Roman numeral should be XIV (rather than IXV).

File: source/UF/CoconesofSpans.lagda [hunk 3]
```diff
@@ -0,0 +1,503 @@
+Ian Ray, 15th January 2025
+
+We will prove some results about cocones of spans.
```
Comment (martinescardo) [inline source/UF/CoconesofSpans.lagda]: Please add a citation here. Where are you taking these ideas from?

File: source/UF/CoconesofSpans.lagda [hunk 4]
```diff
@@ -0,0 +1,503 @@
...
+        Σ H' ꞉ ((λ - → transport P (G -) ((i' ∘ f) -)) ∼ j' ∘ g) ,
+         Σ K ꞉ i ∼ i' , Σ L ꞉ j ∼ j' ,
+          ∼-trans (λ - → ap (transport P (G -)) ((K ∘ f) -)) H'
+           ∼ ∼-trans H (L ∘ g))                                   ≃⟨ II ⟩
+       (Σ i' ꞉ ((a : A) → P (l a)) , Σ K ꞉ i ∼ i' ,
+          Σ j' ꞉ ((b : B) → P (r b)) , Σ L ꞉ j ∼ j' ,
+           Σ H' ꞉ ((λ - → transport P (G -) ((i' ∘ f) -)) ∼ j' ∘ g) ,
+            ∼-trans (λ - → ap (transport P (G -)) ((K ∘ f) -)) H'
+             ∼ ∼-trans H (L ∘ g))                                 ≃⟨ VII ⟩
+       (Σ H' ꞉ ((λ - → transport P (G -) ((i ∘ f) -)) ∼ j ∘ g) , H' ∼ H)                                                                             ≃⟨ IXV ⟩
```
Comment (martinescardo) [inline source/UF/CoconesofSpans.lagda]: Again IXV.

File: source/UF/CoconesofSpans.lagda [hunk 5]
```diff
@@ -0,0 +1,503 @@
...
+open import UF.Yoneda
+
+\end{code}
+
+We start by defining cocones and characerizing their identity type.
+
+\begin{code}
+
+cocone : {A : 𝓤  ̇} {B : 𝓥  ̇} {C : 𝓦  ̇}
+         (f : C → A) (g : C → B) (X : 𝓣  ̇)
```
Comment (martinescardo) [inline source/UF/CoconesofSpans.lagda]: The following should be module parameters. Have a look how things are done in `UF.Pullback`.

```
{A : 𝓤  ̇} {B : 𝓥  ̇} {C : 𝓦  ̇}
         (f : C → A) (g : C → B) (X : 𝓣  ̇)
```

File: source/UF/CoconesofSpans.lagda (hunk 4 above)
Comment (tomdjong) [inline source/UF/CoconesofSpans.lagda]: Fix line length please.

File: source/UF/CoconesofSpans.lagda [hunk 6]
```diff
@@ -0,0 +1,503 @@
...
+                 → cocone-morphism f g X P s s'
+                 → 𝓤 ⊔ 𝓥 ⊔ 𝓦 ⊔ 𝓣 ⊔ 𝓣'  ̇
+Alternative-Path {_} {_} {_} {_} {_} {A} {B} {C} f g X P
+ (i , j , H) (i' , j' , H') (u , K , L , M) (u' , K' , L' , M')
+ = (θ : (x : P) → u x ＝ u' x)
+   (ϕl : (a : A) → θ (i a) ∙ K' a ＝ K a)
+   (ϕr : (b : B) → θ (j b) ∙ L' b ＝ L b)
+   (c : C)
+ → K (f c) ∙ H' c ＝ ap u (H c) ∙ L (g c)
+alt-path : {A : 𝓤  ̇} {B : 𝓥  ̇} {C : 𝓦  ̇}
```
Comment (martinescardo) [inline source/UF/CoconesofSpans.lagda]: Add blank line.

File: source/UF/Pushouts.lagda [hunk 7]
```diff
@@ -0,0 +1,418 @@
+Ian Ray, 15th January 2025
+
+Edited by Ian Ray on 16th March 2025.
+
+Pushouts are defined as a higher inductive type (in the form of a record type). We
+postulate point and path constructors and the (dependent) universal property.
```
Comment (martinescardo) [inline source/UF/Pushouts.lagda]: Perhaps the word "postulate" here is not good. We don't use postulates in TypeTopology. Maybe write "assume".

File: source/UF/Pushouts.lagda [hunk 8]
```diff
@@ -0,0 +1,418 @@
...
+We will derive other important results like induction and recursion principles along
+and the corresponding propositional computation rules. Of course, due to Kristina
+Sojakova's dissertation (and the following paper on the same topic doi:
```
Comment (martinescardo) [inline source/UF/Pushouts.lagda]: There is a missing verb in the sentence starting "Of course, due to".

File: source/UF/Pushouts.lagda [hunk 9]
```diff
@@ -0,0 +1,418 @@
+Ian Ray, 15th January 2025
+
+Edited by Ian Ray on 16th March 2025.
+
+Pushouts are defined as a higher inductive type (in the form of a record type). We
+postulate point and path constructors and the (dependent) universal property.
+We will derive other important results like induction and recursion principles along
```
Comment (tomdjong) [inline source/UF/Pushouts.lagda]: Remove "along". (I'm not sure what you meant to say here.)

File: source/UF/Pushouts.lagda [hunk 10]
```diff
@@ -0,0 +1,418 @@
...
+types with propositional computation rules the following are equivalent:
+
+1) dependent homotopy initiality
+2) induction principle with propositional computation rules
+3) recursion principle with propositional computation rules and uniqueness
+   principle
+4) non-dependent homotopy initiality
+
+Sojakova uses the term 'homotopy initiality' for the universality of 'algebra
+morphisms' (see the paper above). Here we choose a weaker phrasing in terms of the
```
Comment (martinescardo) [inline source/UF/Pushouts.lagda]: I think you can leave out "(see paper above)" as this is clearly implied by your discussion.

Comment (tomdjong) [inline source/UF/Pushouts.lagda]: Can you briefly say in what sense your phrasing is weaker?

File: source/UF/Pushouts.lagda [hunk 11]
```diff
@@ -0,0 +1,418 @@
...
+\end{code}
+
+We will now define the (dependent and non-dependent) universal properties,
+induction principle and the corresponding propositional computation rules for
+pushouts.
+
+\begin{code}
+
+canonical-map-to-cocone
+ : {A : 𝓤  ̇} {B : 𝓥  ̇} {C : 𝓦  ̇} (S : 𝓤'  ̇)
```
Comment (tomdjong) [inline source/UF/Pushouts.lagda]: Please use module parameters again for common assumptions like 
```
{A : 𝓤  ̇} {B : 𝓥  ̇} {C : 𝓦  ̇} (S : 𝓤'  ̇) 
(f : C → A) (g : C → B) (s : cocone f g S)
```

File: source/UF/Pushouts.lagda [hunk 12]
```diff
@@ -0,0 +1,418 @@
...
+
+1) The dependent universal property
+2) The induction principle with propositional computation rules
+3) The recursion principle with propositional computation rules and the
+   uniqueness principle
+4) The universal property.
+
+Below we will derive 2), 3) and 4) from the seemingly strongest assumption 1).
+In a later file we will attempt to derive 1), 2) and 3) from the seemingly weakest
+assumption 4) (this is a work in progress.)
```
Comment (martinescardo) [inline source/UF/Pushouts.lagda]: Probably remove article "a".

File: source/UF/Pushouts.lagda [hunk 13]
```diff
@@ -0,0 +1,418 @@
...
+
+\begin{code}
+
+record pushouts-exist {A : 𝓤  ̇} {B : 𝓥  ̇} {C : 𝓦  ̇} (f : C → A) (g : C → B) : 𝓤ω
+ where
+ field
+  pushout : 𝓤 ⊔ 𝓥 ⊔ 𝓦  ̇
+  inll : A → pushout
```
Comment (tomdjong) [inline source/UF/Pushouts.lagda:166]: Please just use `inl` and `inr`. (This won't clash with coproducts.)

File: source/UF/Pushouts.lagda [hunk 14]
```diff
@@ -0,0 +1,418 @@
...
+We need to unpack all the information from the dependent universal property (i.e.
+we extract the fact that the fiber of the canonical map is contractible).
+
+\begin{code}
+
+ pushout-cocone : cocone f g pushout
+ pushout-cocone = (inll , inrr , glue)
+
+ pushout-fiber-is-singleton
+  : {P : pushout →  𝓣'  ̇}
```
Comment (tomdjong) [inline source/UF/Pushouts.lagda]: Module parameters
```
{P : pushout →  𝓣'}
(t : dependent-cocone f g pushout pushout-cocone P)
```
would clean this up. Also note that I removed the spacing after `𝓣'` and before `}`.

File: source/UF/Pushouts.lagda [hunk 15]
```diff
@@ -0,0 +1,418 @@
...
+ pushout-rec-comp-glue
+  : {D : 𝓣  ̇}
+  → (l : A → D)
+  → (r : B → D)
+  → (G : (c : C) → l (f c) ＝ r (g c))
+  → (c : C)
+  → ap (pushout-recursion l r G) (glue c) ∙ pushout-rec-comp-inrr l r G (g c) 
+  ＝ pushout-rec-comp-inll l r G (f c) ∙ G c
+ pushout-rec-comp-glue {𝓣} {D} l r G c =
+  ap (pushout-recursion l r G) (glue c) ∙ pushout-rec-comp-inrr l r G (g c)                                                                 ＝⟨ III ⟩
```
Comment (martinescardo) [inline source/UF/Pushouts.lagda]: The "III" here is far off with lots of spaces before it. You should remove these spaces.

File: source/UF/Pushouts.lagda [hunk 16]
```diff
@@ -0,0 +1,418 @@
...
+  → Pushout-Universal-Property pushout f g (inll , inrr , glue) X
+ pushout-universal-property X = ((ψ , ϕ-ψ) , (ψ , ψ-ϕ))
+  where
+   ϕ : (pushout → X) → cocone f g X
+   ϕ u = canonical-map-to-cocone pushout f g (inll , inrr , glue) X u
+   ψ : cocone f g X → (pushout → X)
+   ψ (l , r , G) = pushout-recursion l r G
+   ψ-ϕ : ψ ∘ ϕ ∼ id
+   ψ-ϕ u = dfunext fe (pushout-uniqueness X ((ψ ∘ ϕ) u) u
+                   (pushout-rec-comp-inll (u ∘ inll) (u ∘ inrr) (∼-ap-∘ u glue))
```
Comment (martinescardo) [inline source/UF/Pushouts.lagda]: Align everything after `fe` below `dfunext` with one space.

File: source/UF/Pushouts.lagda [hunk 17]
```diff
@@ -0,0 +1,418 @@
...
+       ∙ pushout-rec-comp-inrr l r G (g c)
+      ＝ ap (transport (λ - → D) (glue c)) (pushout-rec-comp-inll l r G (f c))
+       ∙ (transport-const (glue c) ∙ G c)
+   IV = pushout-ind-comp-glue l r (λ - → (transport-const (glue -) ∙ G -)) c
+   V : transport-const (glue c) ⁻¹ ∙ apd (pushout-recursion l r G) (glue c)
+        ∙ pushout-rec-comp-inrr l r G (g c)
+     ＝ transport-const (glue c) ⁻¹
+        ∙ ap (transport (λ - → D) (glue c)) (pushout-rec-comp-inll l r G (f c))
+        ∙ (transport-const (glue c) ∙ G c)
+   V = ap-on-left-is-assoc {_} {_} {_} {_} {_} {_} {_} (transport-const (glue c) ⁻¹)
```
Comment (tomdjong) [inline source/UF/Pushouts.lagda]: You can remove all of `{_} {_} {_} {_} {_} {_} {_}`.

File: source/UF/Pushouts.lagda [hunk 18]
```diff
@@ -0,0 +1,418 @@
...
+            ((pushout-inrr-homotopy t z) ∘ g)
+ pushout-glue-homotopy t (u , K , L , M) = M
+
+\end{code}
+
+Now we can derive the induction and recursion principles along with the corresponding
+computation rules, the uniqueness of maps out of the pushout and the (non-dependent)
+universal property.
+
+\begin{code}
```
Comment (martinescardo) [inline source/UF/Pushouts.lagda:257]: Again, in the code below, you should use anonymous modules for parameters that are used repeatedly by some functions.

**Review by tomdjong — CHANGES_REQUESTED** [review]
Thanks @IanRay11!

**Review by martinescardo — CHANGES_REQUESTED** [review]
Thanks for your contribution. @tomdjong and I have written a joint review with some change requests.

File: source/UF/Pushouts.lagda (hunk 9 above)
Comment (IanRay11) [reply source/UF/Pushouts.lagda]: "along with..." let me know if this phrasing is better.

File: source/UF/Pushouts.lagda (hunk 10 above)
Comment (IanRay11) [reply source/UF/Pushouts.lagda]: In light of a recent conversation with Vojtech, it seems that my rephrasing *isn't* weaker. I'm not entirely convinced in either direction (since I haven't filled all the whole in Pushout2 which derives upward from the non-dependent universal property) so for now I will remove the comment.

Comment (IanRay11) [reply source/UF/Pushouts.lagda]: But I will add a (rough?) translation between Sojakova's terminology and mine.

File: source/UF/Pushouts.lagda (hunk 14 above)
Comment (IanRay11) [reply source/UF/Pushouts.lagda]: Yeah sorry about the random spaces. Since I have a character replacement for the dot after the unverse param I sometimes get random funky spacings. I'll go through everything and try to correct these.

File: source/UF/Pushouts.lagda (hunk 8 above)
Comment (IanRay11) [reply source/UF/Pushouts.lagda]: Not sure I follow. It may sounds a bit clunky with the mid sentence parthetical and reference link, but the sentence is simply: Of course, due to Sojakova's dissertation, it is well known that for higher inductive
types with propositional computation rules the following are equivalent:
*list follows*.

File: source/UF/Pushouts.lagda (hunk 12 above)
Comment (IanRay11) [reply source/UF/Pushouts.lagda]: I'm just going to reword this completly. Let me know if you have thoughts on the new wording.

File: source/UF/Pushouts.lagda (hunk 15 above)
Comment (IanRay11) [reply source/UF/Pushouts.lagda]: I see. The spacing was a bit weird for these long terms between equational reasoning. I settled on putting the =<...> between lines, is that okay?

File: source/UF/CoconesofSpans.lagda [hunk 19]
```diff
@@ -21,483 +24,456 @@ open import UF.Yoneda
...
+A span is a pair of maps 
+
+        C --------> A
+        |
+        |
+        |
+        v
+        B
+
+It is possible to complete a span with a commuting sqaure
```
Comment (martinescardo) [inline source/UF/CoconesofSpans.lagda]: Typo: "sqaure".

File: source/UF/Pushouts.lagda (hunk 15 above)
Comment (martinescardo) [reply source/UF/Pushouts.lagda]: I think the problem may be that you thought that there is a line break but it is just emacs wrapping around a long line with lots of spaces.

**Comment by tomdjong** [comment]
@IanRay11 Is any of the code based on `agda-unimath`? If so, you should say so (if you didn't already; it's hard to check on my phone).

**Comment by IanRay11** [comment]
Okay I'm gonna go over it one more time myself and see if anything can be tidied into modules further. I can make a reference to Uni-math and the HoTT book. I will also do a complete spellcheck again

**Comment by tomdjong** [comment]
Please also check for unused imports.

File: source/UF/CoconesofSpans.lagda [hunk 20]
```diff
@@ -4,6 +4,8 @@ We will prove some results about cocones of spans. For details see section 23
 of Introduction to Homotopy Type Theory by Egbert Rijke (HoTTest summer school
 version:
 https://github.com/martinescardo/HoTTEST-Summer-School/blob/main/HoTT/hott-intro.pdf)
+and the development found in the Agda Uni-Math library
```
Comment (martinescardo) [inline source/UF/CoconesofSpans.lagda]: I don't think there is a hyphen in "Uni-Math". Also they write "agda-unimath" (see e.g. the page https://unimath.github.io/agda-unimath/).

Comment (tomdjong) [reply source/UF/CoconesofSpans.lagda]: Sorry to keep commenting on this, but I'd like to clarify something. **If** your code was based on, or inspired by, the `agda-unimath` code, then it's important to explicitly say so in order for those authors to get proper credit. In that case, it's not just about pointing a reader to another source with more details. But maybe you didn't actually base your code on theirs, in which case my remark does not apply.

Comment (IanRay11) [reply source/UF/CoconesofSpans.lagda]: I did not base any code on anything from the library but I did look at the library for inspiration at the beginning of the project. I also had discussions with Vojtech who also recommended I look at the library development.

Comment (IanRay11) [reply source/UF/CoconesofSpans.lagda]: Oh I see. In the pushout file I do say that it is "inspired by" but I simply point to the library in the cocone file. I will fix this.

File: source/UF/Pushouts.lagda [hunk 21]
```diff
@@ -1,6 +1,6 @@
 Ian Ray, 15th January 2025
 
-Edited by Ian Ray on 16th March 2025.
+Edited by Ian Ray on 16th March 2025 and 19th June 2025.
 
 The pushout is the universal completion of a span
```
Comment (martinescardo) [inline source/UF/Pushouts.lagda:5]: Full stop missing.

Comment (IanRay11) [reply source/UF/Pushouts.lagda:5]: I'll just reword it.

File: source/UF/CoconesofSpans.lagda [hunk 22]
```diff
@@ -0,0 +1,482 @@
+Ian Ray, 15th January 2025
+
+Editted by Ian Ray, 19th Jun 2025.
```
Comment (martinescardo) [inline source/UF/CoconesofSpans.lagda]: Typo "Editted".

Comment (martinescardo) [reply source/UF/CoconesofSpans.lagda]: After you fix this typo I will merge.

Comment (martinescardo) [reply source/UF/CoconesofSpans.lagda]: I merged it, but you forgot to import your files from UF.index, and so they won't show in the html rendering. 

Please make an additional pull request to fix this.

Comment (martinescardo) [reply source/UF/CoconesofSpans.lagda]: (Also, the github checks won't have detected any compatibility problems with your files, because they were not included in the check.)

Comment (martinescardo) [reply source/UF/CoconesofSpans.lagda]: And, in fact, when I run agda on your pushout file locally in my machine, this fails.

Comment (IanRay11) [reply source/UF/CoconesofSpans.lagda]: Okay let me take a look.

Comment (martinescardo) [reply source/UF/CoconesofSpans.lagda]: The error I get is this, from the terminal:

```
$ agda Pushouts.lagda 
Checking UF.Pushouts (/Users/mhe/feathers/tudo/alive/TypeTopology/source/UF/Pushouts.lagda).
 Checking UF.CoconesofSpans (/Users/mhe/feathers/tudo/alive/TypeTopology/source/UF/CoconesofSpans.lagda).
/Users/mhe/feathers/tudo/alive/TypeTopology/source/UF/CoconesofSpans.lagda:144,62-72
Σ _Y_372 !=<
(x : (x₁ y : Sigma (A → X) (λ i' → i ∼ i')) → x₁ ＝ y)
(y : (x₁ y₁ : Sigma (A → X) (λ i' → i ∼ i')) → x₁ ＝ y₁) →
x ＝ y
when checking that the inferred type of an application
  Σ _Y_372
matches the expected type
  (x : (x₁ y : Sigma (A → X) (λ i' → i ∼ i')) → x₁ ＝ y)
  (y : (x₁ y₁ : Sigma (A → X) (λ i' → i ∼ i')) → x₁ ＝ y₁) →
  x ＝ y
```

Comment (IanRay11) [reply source/UF/CoconesofSpans.lagda]: I wonder if it's because my branch has been updated with main. I will figure out what's going on.

Comment (martinescardo) [reply source/UF/CoconesofSpans.lagda]: OK. I fixed it. I will push it soon.

Comment (martinescardo) [reply source/UF/CoconesofSpans.lagda]: The problem is that in the mean time I changed the order of the arguments of `prop-indexed-sum`.

Comment (martinescardo) [reply source/UF/CoconesofSpans.lagda]: I think you were not working with the most recent version of `TypeTopology`. In any case, in the future, please make sure you are importing your files from the main index, so that they do get typeachecked by the github action.

Comment (martinescardo) [reply source/UF/CoconesofSpans.lagda]: I have now pushed the fix.
